US06727264B1
1-CHLORO-2-[(3-CHLOROPROPYL)SULFANYL]BENZENE:
Prepared by Procedure R and Scheme Z using 2-chlorobenzenethiol and 1-bromo-3-chloropropane.

reactant | 2-chlorobenzenethiol | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 1-CHLORO-2-[(3-CHLOROPROPYL)SULFANYL]BENZENE | ClC1=C(C=CC=C1)SCCCCl | C9H10Cl2S
